US03969402
4-fluoroiodobenzene and 4-bromo-3-nitroacetophenone were reacted in an analogous manner to that described in Example 1 (a) to give the novel intermediate 4-acetyl-4'-fluoro-2-nitrobiphenyl, m.p. 88° - 90°C. (from methanol). This compound was reduced with stannous chloride in concentrated hydrochloric acid in an analogous manner to that described in Example 1 (b) to give the novel intermediate 4-acetyl-2-amino-4'-fluorobiphenyl, m.p. 88° - 91°C. (from methanol). The amino group in this compound was converted to methoxy in the following way:

reactant | 4-fluoroiodobenzene | FC1=CC=C(C=C1)I | C6H4FI
reactant | 4-bromo-3-nitroacetophenone | CC(=O)C1=CC(=C(C=C1)Br)[N+](=O)[O-] | C8H6BrNO3
solvent | methanol | CO | CH4O
product | 4-acetyl-4'-fluoro-2-nitrobiphenyl | C(C)(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)F)[N+](=O)[O-] | C14H10FNO3
